US04824951
2-(4-Bromophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate [1:2:0.5]
2-(4-Bromophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide (2.25 g, 0.0056 mole) was treated with concentrated hydrochloric acid and isopropyl alcohol to give 2.4 g (70%) of white solid, mp 160.5°-162° C.

reactant | 2-(4-Bromophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.0056 mole, 2.25 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | C18H20BrN5O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-Bromophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride hydrate | 2.4 g, 70% | O.Cl.BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NCCN(C)C | InChI=1S/C18H20BrN5O.ClH.H2O/c1-23(2)11-10-20-16(25)12-24-17(13-5-7-14(19)8-6-13)22-15-4-3-9-21-18(15)24;;/h3-9H,10-12H2,1-2H3,(H,20,25);1H;1H2
